US06274735B1
2.5 g of (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride was dissolved in 33 mL of methanol. Then 2.3 g of triethylamine was added and the mixture was cooled to −18° C. A solution of 2.6 g (11.9 mmol) di-tert.-butyl-dicarbonate in 16 mL of methanol was added during 30 min. The reaction mixture was stirred for 1 h at −18° C. and then heated slowly to 0° C. After stirring for additional 2 h at 0° C. 10 mL of water was added and the methanol was removed with the rotary evaporator. The residue was dissolved in a mixture of dichloromethane/water and a solution of 10% NaHSO4 was slowly added. After extraction the organic phase was washed with a NaHCO3 solution and with a half-saturated NaCl solution. The water phase was extracted twice with dichloromethane. The crude product was obtained after drying (MgSO4) and concentrating the organic phases. Then diethylether was added and the product started to crystallise. After adding pentane the mixture was placed in the refrigerator. The next day the crystals were separated, washed with pentane and dried into vacuo yielding 3.1 g of (3R,4R)-3-hydroxy-4-(4-hydroxy-phenyl)-piperidin-1-carboxylic-acid-tert-butylester as white crystals.

reactant | (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride | 2.5 g | Cl.OC1=CC=C(C=C1)[C@@H]1[C@H](CNCC1)O
reactant | triethylamine | 2.3 g | C(C)N(CC)CC | C6H15N
reactant | di-tert.-butyl-dicarbonate | 11.9 mmol, 2.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 10 mL | O | H2O
solvent | methanol | 33 mL | CO | CH4O
solvent | methanol | 16 mL | CO | CH4O
product | (3R,4R)-3-hydroxy-4-(4-hydroxy-phenyl)-piperidin-1-carboxylic-acid-tert-butylester | 3.1 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)O)O | C16H23NO4
